US04279912
600 mg of ethyl 5-chloro-8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate were suspended in 100 ml of 50% aqueous ethanol and then 4.4 ml of N sodium hydroxide solution were added. The mixture was heated on a steam bath for 1 hour and the resulting solution was acidified with 4.4 ml of N hydrochloric acid and then was cooled to room temperature to obtain colorless crystals of 5-chloro-8-methoxy-imidazo-[1,2-a]-quinoline-2-carboxylic acid melting at 277°-278° C.

reactant | ethyl 5-chloro-8-methoxyimidazo-[1,2-a]-quinoline-2-carboxylate | 600 mg | ClC1=CC=2N(C3=CC(=CC=C13)OC)C=C(N2)C(=O)OCC | C15H13ClN2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-chloro-8-methoxy-imidazo-[1,2-a]-quinoline-2-carboxylic acid | ClC1=CC=2N(C3=CC(=CC=C13)OC)C=C(N2)C(=O)O | C13H9ClN2O3
